US05162203
4-Pentylpyrazole (4-PeP) was prepared by adding 2-Pentyl-1,1,3,3-tetraethoxypropane dropwise with stirring to a solution having a molar equivalent of hydrazine sulfate in 6M HCl at 40°-45° C. The mixture was kept at this temperature for 1 hour and the temperature then raised to 90° C. for 30 minutes. After the mixture cooled, 40% w/w 30 NaOH was added and the mixture thoroughly extracted with ether. Drying the ether solution over MgSO4 afforded 4-PeP. Stock solutions of 4-PeP (3 mM) were prepared by dissolution first in acetonitrile, followed by dilution with water to a final acetonitrile concentration of 8%.

reactant | 2-Pentyl-1,1,3,3-tetraethoxypropane | C(CCCC)C(C(OCC)OCC)C(OCC)OCC | C16H34O4
reactant | hydrazine sulfate | S(=O)(=O)(O)O.NN
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6M | Cl | ClH
product | 4-PeP | C(CCCC)C=1C=NNC1 | C8H14N2
